US08729078B2
1-(4-bromo-1-methyl-1H-pyrrol-2-yl)-2,2,2-trifluoroethanone (5.0 g, 19.5 mmol) was dissolved in ammonium hydroxide (72.5 ml, 29.4% aqueous solution) and stirred at room temperature for 45 min. The solution was brought to pH=7 with 2N HCl. The solid precipitate was collected by filtration. The solid was washed with water and dried overnight under reduced pressure at 50° C. The aqueous layer was extracted twice with dichloromethane. The organic phase was concentrated in vacuo to afford more solid. Solid from the filtration and extraction were combined to afford 4-bromo-1-methyl-1H-pyrrole-2-carboxylic acid amide (3.2 g, 81%) as a white solid: LC/MS-ESI observed [M+H]+ 203 and 205.

reactant | 1-(4-bromo-1-methyl-1H-pyrrol-2-yl)-2,2,2-trifluoroethanone | 19.5 mmol, 5.0 g | BrC=1C=C(N(C1)C)C(C(F)(F)F)=O | C7H5BrF3NO
reactant | HCl | 2N | Cl | ClH
reactant | ammonium hydroxide | 72.5 ml | [OH-].[NH4+]
product | 4-bromo-1-methyl-1H-pyrrole-2-carboxylic acid amide | 3.2 g, 81% | BrC=1C=C(N(C1)C)C(=O)N | C6H7BrN2O
